US07332494B2
1-[1-{2-Hydroxy-3-[4-(2-hydroxy-phenyl)-piperazin-1-yl]-propyl}-3-(4-iodo-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone.
Cs2CO3 (1.30 g, 4.01 mmol) was added to a solution of 1-[3-(4-iodo-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone (1.34 g, 3.65 mmol) and epichlorohydrin (2.85 mL, 36.4 mmol) in DMF (10.0 mL). The mixture was stirred for 17 h then partitioned between EtOAc (400 mL) and saturated NaHCO3 (150 mL). The NaHCO3 layer was extracted with EtOAc (2×150 mL). The combined extracts were washed with H2O (2×150 mL), brine (150 mL), dried over Na2SO4 and concentrated. The residue was purified by column chromatography (silica, 10-25% acetone/CH2Cl2) to give 890 mg (58%) of the title compound. HPLC, tR=5.53 min. (Reverse phase conditions: HP 1100 LCMS, Phenomenex luna 2.1×150 mm column, 60% MeOH/H2O (0.5% AcOH) to 90% MeOH/H2O (0.5% AcOH), held at initial conditions for 2 min then ramped to final conditions over 5 min.) MS (electrospray), m/z calculated for C17H18IN3O2Na [M+Na]+ 445.04, found 445.95. 1H NMR (CDCl3, 500 MHz, a mixture of amide rotamers): 7.76 (d, J=8.3 Hz, 2H), 7.75 (d, J=8.3 Hz, 2H), 7.42 (d, J=8.2 Hz, 2H), 7.35 (d, J=8.2 Hz, 2H), 4.80 and 4.73 (A and B of AB quartet, Jab=15.6 Hz, 2H), 4.60 (s, 2H), 4.84 (dd, J=15.1, 2.1 Hz,1H), 4.42 (dd, J=15.0, 2.1 Hz, 1H), 4.11 (t, J=5.0, Hz,1H), 4.08 (t, J=5.0 Hz,1H), 3.98-3.87 (m, 2H), 3.74 (m, 2H), 3.34 (m, 2H), 2.87-2.72 (m, 6H), 2.52 (dd, J=4.6, 2.6 Hz, 1H), 2.48 (dd, J=4.5, 2.6,1H), 2.20 (s, 3H), 2.14 (s, 3H).

reactant | Cs2CO3 | 4.01 mmol, 1.30 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-[3-(4-iodo-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 3.65 mmol, 1.34 g | IC1=CC=C(C=C1)C1=NNC2=C1CN(CC2)C(C)=O | C14H14IN3O
reactant | epichlorohydrin | 36.4 mmol, 2.85 mL | C(Cl)C1CO1 | C3H5ClO
reactant | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | 1-[1-{2-Hydroxy-3-[4-(2-hydroxy-phenyl)-piperazin-1-yl]-propyl}-3-(4-iodo-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 890 mg, 58% | OC(CN1N=C(C=2CN(CCC21)C(C)=O)C2=CC=C(C=C2)I)CN2CCN(CC2)C2=C(C=CC=C2)O | C27H32IN5O3
